US08957203B2
Step 1: Preparation of (E)-3-(4-fluoro-3-methoxyphenyl)acrylic acid
To a solution of 4-fluoro-3-methoxybenzaldehyde (30 g, 195 mmol) in pyridine (134 ml) and Piperidine (4.12 ml) was added malonic acid (30.4 g, 292 mmol) at room temperature. The reaction mass was refluxed for 18 h. The solvent was evaporated under reduced pressure and the residue was acidified with 1.5N HCl solution. The precipitated solid was filtered washed with pet ether to get crude compound (37 g, 97%) as white solid. The crude compound was taken to the next step without further purification. 1H NMR (400 MHz, CDCl3): δ ppm 12.37 (s, 1H), 7.59-7.55 (d, J=16 Hz, 1H), 7.53 (s, 1H), 7.26-7.22 (m, 2H), 6.59-6.55 (d, J=16 Hz, 1H), 3.89 (s, 3H); MS: MS m/z 195.0 (M+−1).

reactant | 4-fluoro-3-methoxybenzaldehyde | 195 mmol, 30 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | malonic acid | 292 mmol, 30.4 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 134 ml | N1=CC=CC=C1 | C5H5N
solvent | Piperidine | 4.12 ml | N1CCCCC1 | C5H11N
product | (E)-3-(4-fluoro-3-methoxyphenyl)acrylic acid | 37 g, 97% | FC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C10H9FO3
